US04113863
1.6 g. Butyl lithium, dissolved in 60 ml. tetrahydrofuran, is added dropwise to 3.7 g. 9β-hydroxy-15-oxo-12-prostenoic acid ethyl ester, dissolved in 150 ml. dry diethyl ether, with the exclusion of moisture, under argon and with stirring at -15°. The mixture is stirred for another hour, allowed to warm to 0° and mixed dropwise, with ice cooling, with 300 ml. saturated aqueous NH4Cl solution. The organic phase is separated, washed with water and dried over Na2SO4. The solvent is removed to obtain as residue 9β,15-dihydroxy-15-butyl-12-prostenoic acid ethyl ester.

reactant | Butyl lithium | C(CCC)[Li]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 9β-hydroxy-15-oxo-12-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CCC1=CCC(CCCCC)=O)O)=O | C22H38O4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | diethyl ether | C(C)OCC | C4H10O
product | 9β,15-dihydroxy-15-butyl-12-prostenoic acid ethyl ester | C(C)OC(CCCCCC[C@H]1[C@@H](CCC1=CCC(CCCCC)(CCCC)O)O)=O | C26H48O4
